US04168317
Using isopropylamine and 1-(1,2-benzisothiazol-4-yloxy)-3-chloro-propan-2-ol as the starting materials, 4-(2-hydroxy-3-isopropylamino-propoxy)-1,2-benzisothiazole hydrochloride is obtained by the method described in Example 6. The compound is identical with that obtained as described in Example 1.

reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | 1-(1,2-benzisothiazol-4-yloxy)-3-chloro-propan-2-ol | S1N=CC2=C1C=CC=C2OCC(CCl)O | C10H10ClNO2S
product | 4-(2-hydroxy-3-isopropylamino-propoxy)-1,2-benzisothiazole hydrochloride | Cl.OC(COC1=CC=CC2=C1C=NS2)CNC(C)C | InChI=1S/C13H18N2O2S.ClH/c1-9(2)14-6-10(16)8-17-12-4-3-5-13-11(12)7-15-18-13;/h3-5,7,9-10,14,16H,6,8H2,1-2H3;1H
